US07008957B2
10b) 2-Trimethylsilanylethyl 4-iodopiperidine-1-carboxylate
12.5 g of 2-trimethylsilanylethyl 4-hydroxypiperidine-1-carboxylate were dissolved in 136 ml of dichloromethane and 264 ml of tetrachloromethane. The solution was cooled to 0° C. and then 16 g of triphenylphosphine, 4.2 g of imidazole and 15.8 g of iodine were successively added. The mixture was slowly allowed to reach room temperature and was stirred for 14 h. Then 300 ml of a saturated sodium thiosulfate solution were added to the solution. The mixture was stirred until it was colorless. The aqueous phase was then extracted twice with 200 ml of dichloromethane each time. The combined organic phases were washed once with 200 ml of a saturated sodium thiosulfate solution and once with 200 ml of a saturated sodium chloride solution. After drying with MgSO4, the solvents were removed in vacuo, and the residue was purified by chromatography on silica gel.

reactant | 2-trimethylsilanylethyl 4-hydroxypiperidine-1-carboxylate | 12.5 g | OC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C11H23NO3Si
reactant | triphenylphosphine | 16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 4.2 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 15.8 g | II | I2
reactant | sodium thiosulfate | 300 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 136 ml | ClCCl | CH2Cl2
solvent | tetrachloromethane | 264 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2-Trimethylsilanylethyl 4-iodopiperidine-1-carboxylate | IC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C11H22INO2Si
